US05849912
Synthesis of ethyl 5-nitrosalicylate
1.5 kg (8.2 mol) of 5-nitrosalicylic acid was dissolved in 2000 ml of triethyl orthoformate. The obtained solution was refluxed under heating for 3 hours to remove formed ethanol by distillation. The reaction mixture was cooled and then concentrated under reduced pressure. The obtained residue was crystallized from isopropyl ether to give 1.74 kg of the title compound as a colorless crystal.

reactant | 5-nitrosalicylic acid | 8.2 mol, 1.5 kg | [N+](=O)([O-])C1=CC=C(C(C(=O)O)=C1)O | C7H5NO5
reactant | triethyl orthoformate | 2000 ml | C(OCC)(OCC)OCC | C7H16O3
product | ethyl 5-nitrosalicylate | 1.74 kg | [N+](=O)([O-])C1=CC=C(C(C(=O)OCC)=C1)O | C9H9NO5
